US06087380
g) 3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[4,5-b]-pyridine-6-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide
1.8 g (3.7 mmol) of 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[4,5-b]pyridine-6-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide were stirred into 100 l of ethanol saturated with hydrogen chloride for 16 hours first at 0° C. and then at room temperature until no more starting material could be detected by thin layer chromatography. Then the solvent was distilled off, the oily residue was taken up in 50 ml of absolute ethanol and mixed with 3.6 g (37 mMol) of ammonium carbonate. After 4 hours the solvent was distilled off in vacuo, the crude product obtained was purified by flash chromatography (silica gel; gradient:dichloromethane/ethanol 19:1 to 4:1) and evaporated down again. Yield: 1.6 g of beige solid (80% of theory), Rf value: 0.30 (silica gel; ethyl acetate/ethanol/ammonia=90:5:5)

reactant | 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[4,5-b]pyridine-6-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | 3.7 mmol, 1.8 g | C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CCC2=CC=C(C=C2)C#N)C)CCC(=O)OCC | C28H27N5O3
reactant | hydrogen chloride | Cl | ClH
reactant | ammonium carbonate | 37 mMol, 3.6 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | 100 l | C(C)O | C2H6O
product | 3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[4,5-b]-pyridine-6-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)CCC(=O)OCC | C28H30N6O3
